US07247626B2
To 1-[2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidin-3-yl]ethanone (1.24 g, 4.12 mmol) was added 1,1-di-tert-butoxy-N,N-dimethylmethanamine (15 mL) and the mixture heated to 120° C. for 1 hour. The reaction was allowed to cool to room temperature and stirred for 16 hours. The mixture was diluted with hexanes. The precipitate was collected by filtration and air dried to yield (2E)-3-(dimethylamino)-1-[2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidin-3-yl]prop-2-en-1-one (880 mg, 60%). 1H NMR (DMSO): δ 8.03 (d, 1H), 7.72–7.82 (m, 3H), 7.57 (d, 1H), 7.37 (t, 2H), 5.08 (d, 1H), 3.04 (bs, 3H), 2.71 (s, 3H), 2.52 (bs, 3H). MS m/z 357 (M+1).

reactant | 1-[2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidin-3-yl]ethanone | 4.12 mmol, 1.24 g | FC1=CC=C(C=C1)C1=NN2C(=NC=CC2=C1C(C)=O)SC | C15H12FN3OS
reactant | 1,1-di-tert-butoxy-N,N-dimethylmethanamine | 15 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
product | (2E)-3-(dimethylamino)-1-[2-(4-fluorophenyl)-7-(methylsulfanyl)pyrazolo[1,5-c]pyrimidin-3-yl]prop-2-en-1-one | 880 mg, 60% | CN(/C=C/C(=O)C=1C(=NN2C(=NC=CC21)SC)C2=CC=C(C=C2)F)C | C18H17FN4OS
